US04098985
Preparation of 2-allylamino-4,6-dichloro-s-triazine
18.5 parts of cyanuric chloride were dissolved in 100 parts of acetone and added, while stirring, to a mixture of 300 parts of water and 400 parts of crushed ice. The suspension thus obtained was added to 5.7 parts of allylamine over a period of 30 minutes and subsequently to an aqueous solution of 5.3 parts of sodium carbonate. The white crystalline reaction product was suction-filtered, washed several times with iced water, and dried over phosphorus pentoxide.

reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | water | O | H2O
reactant | allylamine | C(C=C)N | C3H7N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-allylamino-4,6-dichloro-s-triazine | C(C=C)NC1=NC(=NC(=N1)Cl)Cl | C6H6Cl2N4
